### ISSUE TITLE
grind: missing support for `ZMod` and non-numeral `Nat.cast`

### ISSUE THREAD

**Issue by sonmarcho** [leanprover/lean4#11733]
### Prerequisites

* [X] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [X] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [X] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

### Description

This succeeds:
```lean
import Mathlib.Data.ZMod.Defs

example
  (a b c : Nat) (h : c = a + b) :
  (c : ZMod 3329) = (a : ZMod 3329) + (b : ZMod 3329)
  := by
  simp only [h]; grind
```

But this fails:

```lean
import Mathlib.Data.ZMod.Defs

example
  (a b c : Nat) (h : c = a + b) :
  (c : ZMod 3329) = (a : ZMod 3329) + (b : ZMod 3329)
  := by
  grind
```

### Versions

4.27.0-rc1

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

**Comment by leodemoura** [comment]
What is missing

- Support for `ZMod n` in `grind`. We need to add `Grind.ToInt` instances for `ZMod` in Mathlib.

- Support for rewriting and reasoning about `Nat.cast e` when `e` is not a numeral (so that equalities like `c = a + b` can be propagated through the cast into `ZMod` without requiring an explicit substitution.
